US07932402B2
c. Preparation of 3-(3-carbamoylphenyl)-8-azabicyclo[3.2.1]oct-2-ene-8-carboxylic acid tert-butyl ester
To a 250 mL flask was added 3-trifluoromethanesulfonyloxy-8-azabicyclo[3.2.1]oct-2-ene-8-carboxylic acid tert-butyl ester (20 g, 56 mmol), 3-carbamoylphenyl boronic acid (10.2 g, 61 mmol), tris(dibenzylideneacetone)dipalladium(0) (Pd2dba3) (2 g, 2.2 mmol), tricyclohexylphosphine tetrafluoroborate (PCy3HBF4) (1.65 g, 4.4 mmol) and KF (9.8 g, 168 mmol). The reagents were purged with nitrogen for 5 min, and then THF (120 mL) and DMF (30 mL) was added. The suspension was stirred and purged with nitrogen for another 5 min, then heated to 70° C. After 2 h at 70° C., the mixture was cooled to room temperature and filtered through Celite. The filtrate was concentrated and the residue was partitioned between EtOAc (350 mL) and 0.5 N NaOH (400 mL)/brine (50 mL). The organic layer was separated and dried with Na2SO4. A quarter of the solution was removed. The remainder of the solution was concentrated to ˜100 mL to which hexanes (50 mL) was added. Solid precipitates were observed. The solution volume was reduced by 10 mL, hexanes (10 mL) was added, and the slurry was stirred at 0° C. for 1 h. The solids were filtered and dried to give the title intermediate (8.4 g) as light yellow solids. The mother liquor was further concentrated to give more solid precipitate, which was filtered to provide additional product (0.5 g). (Combined 66% yield).

reactant | 3-trifluoromethanesulfonyloxy-8-azabicyclo[3.2.1]oct-2-ene-8-carboxylic acid tert-butyl ester | 56 mmol, 20 g | C(C)(C)(C)OC(=O)N1C2C=C(CC1CC2)OS(=O)(=O)C(F)(F)F | C13H18F3NO5S
reactant | 3-carbamoylphenyl boronic acid | 61 mmol, 10.2 g | C(N)(=O)C=1C=C(C=CC1)B(O)O | C7H8BNO3
reactant | tricyclohexylphosphine tetrafluoroborate | 4.4 mmol, 1.65 g | F[B-](F)(F)F.C1(CCCCC1)P(C1CCCCC1)C1CCCCC1
reactant | KF | 168 mmol, 9.8 g | [F-].[K+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 2.2 mmol, 2 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-(3-carbamoylphenyl)-8-azabicyclo[3.2.1]oct-2-ene-8-carboxylic acid tert-butyl ester | 8.4 g | C(C)(C)(C)OC(=O)N1C2C=C(CC1CC2)C2=CC(=CC=C2)C(N)=O | C19H24N2O3
